US05493028
2-Chloro-4-methyl-3-pyridinecarboxamide
In a manner similar to that described for 2-chloro-3-pyridinecarboxamide in Example 13, the title compound (m.p. 168-170) was prepared in 64% yield from 4 g of ethyl 2-chloro-4-methyl-3-pyridinecarboxylate, 1 g of NH4Cl, 30 mL of concentrated aqueous ammonia, and 0.6 of Bu4NBr.

reactant | 2-chloro-3-pyridinecarboxamide | ClC1=NC=CC=C1C(=O)N | C6H5ClN2O
reactant | ethyl 2-chloro-4-methyl-3-pyridinecarboxylate | 4 g | ClC1=NC=CC(=C1C(=O)OCC)C | C9H10ClNO2
reactant | NH4Cl | 1 g | [NH4+].[Cl-]
catalyst | Bu4NBr | [N+](CCCC)(CCCC)(CCCC)CCCC.[Br-]
solvent | ammonia | 30 mL | N | H3N
product | 2-Chloro-4-methyl-3-pyridinecarboxamide | 64% yield | ClC1=NC=CC(=C1C(=O)N)C | C7H7ClN2O
